US04172198
A mixture of 2-(4-oxo-5-chloro-6-methyl-1,4-dihydropyridin-3-yloxy)acetic acid (2.17 g) and triethylamine (5 ml) in methylene chloride (50 ml) was stirred for 15 minutes. After evaporation to dryness, methylene chloride (50 ml) and then thionyl chloride (1.2 g) were added to the residue under ice-cooling, and the mixture was stirred at the same temperature for 15 minutes and at room temperature for 30 minutes. Precipitated crystals were collected by filtration, washed with methylene chloride and diethyl ether and dried to give powder (2.3 g) of 2-(4-oxo-5-chloro-6-methyl-1,4-dihydropyridin-3-yloxy)acetyl chloride. A solution of 7-[D-2-(4-hydroxyphenyl)glycinamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid (2.1 g) and bis(trimethylsilyl)acetamide (10 ml) in methylene chloride (50 ml) was stirred at 0° C. and the powder (1.2 g) obtained above was added thereto. The reaction mixture was stirred at 0° C. for 2.5 hours and kept in an ice-box over-night. After removal of the solvent, water was added to the residue, and appearing precipitates were collected by filtration, washed with water and dried. The resulting powder (2.5 g) in dry acetone (200 ml) was stirred for 3 hours and collected by filtration, washed with a mixture of acetone and diethyl ether and dried. The resultant powder was dissolved in a mixture of water and an aqueous solution of sodium bicarbonate, whereby the solution was adjusted to pH 7.5, and ethyl acetate (5 ml) was added thereto. To the mixture was added Diaion HP-20 resin (Trade name of the product of Mitsubishi Kasei Co.) (1 ml) and the mixture was stirred for 30 minutes and filtered. The filtrate was adjusted to pH 3 with 10% hydrochloric acid. The resulting crystals were collected by filtration, washed with water, and dissolved in hydrous acetone. The solution was treated with active charcoal (0.3 g), and, after removal of the solvent, the resulting crystals were collected by filtration, washed with water and dried to give crystals (0.85 g) of 7-{D-2-[2-(4-oxo-5-chloro-6-methyl-1,4-dihydropyridin-3-yloxy]-acetamido-2-(4-hydroxyphenyl)acetamido}-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid, m.p. 210°-215° C. (dec).

reactant | 2-(4-oxo-5-chloro-6-methyl-1,4-dihydropyridin-3-yloxy)acetic acid | 2.17 g | O=C1C(=CNC(=C1Cl)C)OCC(=O)O | C8H8ClNO4
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
reactant | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-oxo-5-chloro-6-methyl-1,4-dihydropyridin-3-yloxy)acetyl chloride | 2.3 g | O=C1C(=CNC(=C1Cl)C)OCC(=O)Cl | C8H7Cl2NO3
